US08748613B2
(R)-Quinuclidin-3-yl 2-(4-carbamoylpiperidin-1-yl)-2-phenylacetate (72 mg, 0.19 mmol) was dissolved in a mixture EtOAc (1.3 ml) and acetonitrile (0.6 ml). 2-Chloro-1-phenylethanone (33.0 mg, 0.21 mmol) was added and the mixture was reacted at the same temperature for three days. The mixture was evaporated and the crude was purified by flash chromatography (DCM/MeOH=85/15 to 8/2) to obtain (3R)-3-(2-(4-carbamoylpiperidin-1-yl)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (34 mg, 33.3% yield) as a pale yellow solid.

reactant | (R)-Quinuclidin-3-yl 2-(4-carbamoylpiperidin-1-yl)-2-phenylacetate | 0.19 mmol, 72 mg | C(N)(=O)C1CCN(CC1)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C21H29N3O3
reactant | 2-Chloro-1-phenylethanone | 0.21 mmol, 33.0 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | EtOAc | 1.3 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 0.6 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(4-carbamoylpiperidin-1-yl)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 34 mg, 33.3% yield | [Cl-].C(N)(=O)C1CCN(CC1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C29H35N3O4.ClH/c30-28(34)24-11-15-31(16-12-24)27(23-9-5-2-6-10-23)29(35)36-26-20-32(17-13-22(26)14-18-32)19-25(33)21-7-3-1-4-8-21;/h1-10,22,24,26-27H,11-20H2,(H-,30,34);1H/t22?,26-,27?,32?;/m0./s1
